US07101911B2
A5. Methyl 2,5-bis-(3-hydroxyprop-1-ynyl)benzoate
Pd(Ph3P)4 (1.95 g), CuBrSMe2 (0.75 g) and propargyl alcohol (5.35 ml, 70.0 mmol) are added successively to a solution of methyl 2,5-dibromobenzoate (10.0 g, 34.0 mmol) in triethylamine (235 ml), and the mixture is stirred at RT for 10 min and then under reflux at 80° C. for 3 h. After cooling, the reaction mixture is filtered off with suction through kieselguhr, and the filter cake is washed with ethyl acetate (50 ml). The organic phase is concentrated under reduced pressure. Further purification is carried out by chromatography [toluene/acetone (8:2)] on a silica gel column. This gives the title compound (6.0 g) as a colorless solid. TLC, silica gel (glass plates), [toluene/acetone (8:2)], Rf=0.16.

reactant | propargyl alcohol | 70.0 mmol, 5.35 ml | C(C#C)O | C3H4O
reactant | methyl 2,5-dibromobenzoate | 34.0 mmol, 10.0 g | BrC1=C(C(=O)OC)C=C(C=C1)Br | C8H6Br2O2
solvent | triethylamine | 235 ml | C(C)N(CC)CC | C6H15N
catalyst | Pd(Ph3P)4 | 1.95 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Methyl 2,5-bis-(3-hydroxyprop-1-ynyl)benzoate | 6.0 g | OCC#CC1=C(C(=O)OC)C=C(C=C1)C#CCO | C14H12O4
